US07772285B2
1.00 g of 4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-ethoxy-3-oxopropyl)phenoxy]methyl} benzoic acid was dissolved in 12 mL of tetrahydrofuran, to which 1.03 g of 1,1′-carbonyldiimidazole was added at room temperature, and then this mixture was stirred for one hour while heating it under reflux. After the reaction mixture was cooled to room temperature, 1.07 g of methanesulfonamide and 1.7 mL of 1,8-diazabicyclo[5.4.0]undec-7-ene were added to this mixture, which was stirred for 30 minutes at room temperature and for another 30 minutes at 50° C. The reaction mixture which was cooled to room temperature was added to a mixture of methylene chloride and water, and adjusted to pH 2 with 6M hydrochloric acid, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, this washed phase was dried over anhydrous magnesium sulfate and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=1:2] to yield 0.65 g of ethyl 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(4-{[(methylsulfonyl)amino]carbonyl}benzyl)oxy]phenyl}propanoate as light yellow solid.

reactant | 4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-ethoxy-3-oxopropyl)phenoxy]methyl} benzoic acid | 1.00 g | C1(CCCC1)OC1=CC(=C(C(=O)C2=CC(=C(OCC3=CC=C(C(=O)O)C=C3)C=C2)CCC(=O)OCC)C=C1)O | C31H32O8
reactant | 1,1′-carbonyldiimidazole | 1.03 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 1.07 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.7 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(4-{[(methylsulfonyl)amino]carbonyl}benzyl)oxy]phenyl}propanoate | 0.65 g | C1(CCCC1)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OCC)OCC2=CC=C(C=C2)C(=O)NS(=O)(=O)C)C=C1)O | C32H35NO9S
